US05646265
2'-O-Pentyluridine
Utilizing the procedures of Examples 50 and 51, 2',3'-O-dibutylstannylene uridine (19.1 g) was treated with bromopentane (7 ml, 1.3 eq.) and sodium iodide (4.5 g) in DMF (90 ml). Purification on a silica gel column utilizing MeOH/CH2Cl2 5%→10% yielded the a mixture of 2' and 3' isomers of the product as a dark oil (9.8 g).

reactant | 2',3'-O-dibutylstannylene uridine | 19.1 g | C(CCC)[C@@]1([C@@H](O[C@@H]([C@H]1OCCCC)C(O)=[SnH2])N1C(=O)NC(=O)C=C1)O
reactant | bromopentane | 7 ml, 1.3 eq. | BrCCCCC | C5H11Br
reactant | sodium iodide | 4.5 g | [I-].[Na+]
solvent | DMF | 90 ml | CN(C)C=O | C3H7NO
product | 2'-O-Pentyluridine | C(CCCC)O[C@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C(=O)NC(=O)C=C1 | C14H22N2O6
